US08445674B2
4-(2,2-Dimethoxy-ethylamino)-butyric acid tert-butyl ester
To a cooled solution (0° C.) of 2.94 g (15.00 mmol) of 4-aminobutyric acid ter-butylester; hydrochloride in 75 ml of MeOH were added 2.51 ml (18.00 mmol) of dimethoxyacetaldehyde (45% solution in TBME), 3.86 ml (15.00 mmol) of triethylamine, 16.75 g (135.00 mmol) of magnesium sulfate, 3.43 ml (60.00 mmol) of AcOH and 1.29 g (19.50 mmol) of sodium cyanoborohydride (1.99 g, 31.6 mmol). The reaction was stirred 2 h at RT, another 0.39 ml (1.50 mmol) of dimethoxyacetaldehyde (45% solution in TBME) was added and after 1.5 h, the reaction mixture was partitioned between aqueous saturated NaHCO3 and EtOAc/Et2O (1:1) (3×). The organic phases were washed with aqueous saturated NaHCO3, 10% NaCl and dried over Na2SO4 to yield after evaporation of the solvent 1.87 g (50%) of the titled compound as light yellow oil. MS: 248.18 (MH+).

reactant | 4-aminobutyric acid ter-butylester | 15.00 mmol, 2.94 g | C(C)(C)(C)OC(CCCN)=O | C8H17NO2
reactant | hydrochloride | Cl | ClH
reactant | dimethoxyacetaldehyde | 18.00 mmol, 2.51 ml | COC(C=O)OC | C4H8O3
reactant | triethylamine | 15.00 mmol, 3.86 ml | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 135.00 mmol, 16.75 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | AcOH | 60.00 mmol, 3.43 ml | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 19.50 mmol, 1.29 g | C(#N)[BH3-].[Na+]
reactant | dimethoxyacetaldehyde | 1.50 mmol, 0.39 ml | COC(C=O)OC | C4H8O3
solvent | MeOH | 75 ml | CO | CH4O
product | 4-(2,2-Dimethoxy-ethylamino)-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCCNCC(OC)OC)=O | C12H25NO4
